US05328920
1-[4-[3-(6-Chlorobenzo[b]thien-3-yl-4-pyridinylamino)propoxy]-3-methoxyphenyl]ethanone
6-Chloro-3-(4-pyridinylamino)benzo[b]thiophene (4 g, 15 mmol) was added portionwise as a powder to a suspension of sodium hydride (60% oil dispersion, 0.7 g, 18 mmol, washed with heptane) in 50 mL of dimethylformamide. After the anion formation was completed, 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone (4 g, 16 mmol) was added. The reaction mixture was stirred two hours at 45° C., and then was poured into ice-water and extracted with ethyl acetate. The organic extract was washed with water and saturated sodium chloride solution, and then was dried (anhydrous magnesium sulfate), filtered and concentrated to 8 g of a dark oil. Elution through silica with 10% methanol in ethyl acetate via flash column chromatography afforded 4.1 g of a brown oil. Elution of this oil three times through silica with ethyl acetate via flash column chromatography afforded 3.0 g of a waxy solid. Recrystallization from acetonitrile afforded 2.1 g of white crystals, mp 148°-149° C.

reactant | 6-Chloro-3-(4-pyridinylamino)benzo[b]thiophene | 15 mmol, 4 g | ClC=1C=CC2=C(SC=C2NC2=CC=NC=C2)C1 | C13H9ClN2S
reactant | sodium hydride | 18 mmol, 0.7 g | [H-].[Na+]
reactant | 1-[4-(3-chloropropoxy)-3-methoxyphenyl]ethanone | 16 mmol, 4 g | ClCCCOC1=C(C=C(C=C1)C(C)=O)OC | C12H15ClO3
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 1-[4-[3-(6-Chlorobenzo[b]thien-3-yl-4-pyridinylamino)propoxy]-3-methoxyphenyl]ethanone | 4.1 g | ClC=1C=CC2=C(SC=C2N(CCCOC2=C(C=C(C=C2)C(C)=O)OC)C2=CC=NC=C2)C1 | C25H23ClN2O3S
